US06121307
3-Indolyl-propionamide (18a)
A solution of 3-indolepropionic acid (15 g, 79 mmol), 1,1'-carbonyldimidazole (16.7 g, 100 mmol) in anhydrous tetrahydrofuran (150 ml) was allowed to stir for 1.5 hours at room temperature. Then NH3 was bubbled through the solution for 2.5 hours at room temperature. The solvent was removed under vacuum, and the residue was dissolved in ethyl acetate (500 ml). The organic solution was washed with water (3×150 ml), dried over anhydrous sodium sulfate, filtered, and the solvent was removed under vacuum. The white solid was collected and dried under vacuum 10.42 g (96%); mp 124-125° C. MS EI m/e 188 (M+).

reactant | 3-indolepropionic acid | 79 mmol, 15 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | 1,1'-carbonyldimidazole | 100 mmol, 16.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-Indolyl-propionamide | N1C(=CC2=CC=CC=C12)CCC(=O)N | C11H12N2O
